US07989628B2
(2-Methoxy-benzyl)-[5-(2-methylsulfanyl-ethoxy)-quinolin-2-yl]-amine
(5-Iodo-quinolin-2-yl)-(2-methoxy-benzyl)-amine (0.3 g, 1.0 mmol) was dissolved in toluene (2 mL). After addition of 2-hydroxyethyl-methylsulfid (130 μL, 2.0 mmol), CuI (15 mg, 0.1 mmol), phenantroline (28 mg, 0.2 mmol) and caesium carbonate (0.5 g, 2.0 mmol) the reaction mixture was heated to 100° C. for 72 h. Then water was added and the mixture twice extracted with toluene. The combined organic phases were dried on sodium sulfate and evaporated. The residue was subjected to column chromatography (silica gel; heptane, ethyl acetate 10:0->3:2) to yield the title compound (75 mg, 26%) as a brown oil; MS: m/e=355.6 (M+H+).

reactant | (5-Iodo-quinolin-2-yl)-(2-methoxy-benzyl)-amine | 1.0 mmol, 0.3 g | IC1=C2C=CC(=NC2=CC=C1)NCC1=C(C=CC=C1)OC | C17H15IN2O
reactant | 2-hydroxyethyl-methylsulfid | 2.0 mmol, 130 μL | OCCSC | C3H8OS
reactant | phenantroline | 0.2 mmol, 28 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
reactant | caesium carbonate | 2.0 mmol, 0.5 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | toluene | 2 mL | C1(=CC=CC=C1)C | C7H8
catalyst | CuI | 0.1 mmol, 15 mg | [Cu]I
solvent | water | O | H2O
product | (2-Methoxy-benzyl)-[5-(2-methylsulfanyl-ethoxy)-quinolin-2-yl]-amine | 75 mg, 26% | COC1=C(CNC2=NC3=CC=CC(=C3C=C2)OCCSC)C=CC=C1 | C20H22N2O2S
